US04112112
A stirred mixture of 1 gm. of 9-iodo-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one, 1 gm. of cuprous cyanide and 5 ml. of dimethylformamide is heated to reflux for 5 hr. The mixture is then poured into a solution of 4 gm. of ferric chloride hydrate in 25 ml. of 2N hydrochloric acid. After stirring the resulting mixture at 60° for 30 min., it is extracted with 3 × 50 ml. of ethyl acetate, the organic extracts washed with 3 × 100 ml. of water and dried over Na2SO4. Evaporation of the dried solution yields 9-cyano-6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one, m.p. 127°-128° C.

reactant | 9-iodo-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one | IC1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1 | C13H10INO
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-cyano-6,11-dihydro-5H-pyrrolo-[2,1-b][3]benzazepin-11-one | C(#N)C1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1 | C14H10N2O
